US05334576
Preparation of methyl 6-chloromethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2 -yl)nicotinate
To a solution of 8.7 g of methyl 6-hydroxymethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate in 90 mL chloroform, stirred at room temperature, is added dropwise 4.2 mL of thionyl chloride. When the addition is complete, the solution is heated at reflux for 1 hour. The reaction is concentrated in vacuo, and the residue is dissolved in methylene chloride and washed with saturated sodium bicarbonate solution. The organic phase is dried and concentrated in vacuo to an oil. Trituration of this oil affords the desired product as a solid. Recrystallization from methylene chloride-hexane gives analytically pure material, mp 127°-129° C.

reactant | methyl 6-hydroxymethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | 8.7 g | OCC1=NC(=C(C(=O)OC)C=C1)C=1NC(C(N1)(C)C(C)C)=O | C15H19N3O4
reactant | thionyl chloride | 4.2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 90 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 6-chloromethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2 -yl)nicotinate | ClCC1=NC(=C(C(=O)OC)C=C1)C=1NC(C(N1)(C)C(C)C)=O | C15H18ClN3O3
